US07795267B2
N-(4-Fluorophenyl)-tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
Hexahydro-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.10 g, 0.59 mmol) was dissolved in tetrahydrofuran (10 mL). 4-Fluorophenyl isocyanate (0.12 g, 0.88 mmol) was added thereto, and the mixture was stirred at 50° C. for 4 hours. The reaction solution was concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1 to 1:9). After purification, the crystals, which were precipitated while concentrating under reduced pressure, were collected by filtration to obtain the title compound (136 mg, yield 75%).

reactant | Hexahydro-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.59 mmol, 0.10 g | CC1(OC(N2C1CNCC2)=O)C | C8H14N2O2
reactant | 4-Fluorophenyl isocyanate | 0.88 mmol, 0.12 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-(4-Fluorophenyl)-tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 136 mg, yield 75% | FC1=CC=C(C=C1)NC(=O)N1CC2N(CC1)C(OC2(C)C)=O | C15H18FN3O3
